US07790709B2
To a solution of acenaphthen-5-ylmethyl-methylamine (216 mg, 1.1 mmol), (E)-3-(6-amino-pyridin-3-yl)acrylic acid (164 mg, 1 mmol), HOBt (148 mg, 1.1 mmol) and diisopropylethylamine (0.8 mL, 4.4 mmol) in DMF (20 mL) was added EDC hydrochloride (210 mg, 1.1 mmol). The mixture was stirred overnight at room temperature. Water (100 mL) was added and the solution stirred for 1 hour. The precipitate was collected by filtration. The yellow solid was preabsorded onto silica gel and purified by column chromatography (95:5 CH2Cl2/MeOH). The residue was dissolved into methylene chloride followed by addition of 1M HCl/ether. The precipitate was collected by filtration to afford (E)-N-acenaphthen-5-ylmethyl-3-(6-amino-pyridin-3-yl)-N-methyl-acrylamide hydrochloride (120 mg, 32%) as a white solid and as a mixture of amide rotomers. 1H NMR (300 MHz, DMSO-d6) δ 8.44-8.28 (m, 3H), 7.84-7.72 (m, 1H), 7.59-7.12 (m, 6H), 7.07-6.92 (m, 1H), 5.15-5.02 (2×s, 2H), 3.35-3.15 (bs, 2H), 3.18 (s, 4H), 3.07-2.90 (2×s, 3H); ESI MS m/z 344 [C22H21N3O+H]+.

reactant | acenaphthen-5-ylmethyl-methylamine | 1.1 mmol, 216 mg | C1CC2=CC=C(C3=CC=CC1=C23)CNC | C14H15N
reactant | (E)-3-(6-amino-pyridin-3-yl)acrylic acid | 1 mmol, 164 mg | NC1=CC=C(C=N1)/C=C/C(=O)O | C8H8N2O2
reactant | HOBt | 1.1 mmol, 148 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 4.4 mmol, 0.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | EDC hydrochloride | 1.1 mmol, 210 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | Water | 100 mL | O | H2O
product | (E)-N-acenaphthen-5-ylmethyl-3-(6-amino-pyridin-3-yl)-N-methyl-acrylamide hydrochloride | 120 mg, 32% | Cl.C1CC2=CC=C(C3=CC=CC1=C23)CN(C(\C=C\C=2C=NC(=CC2)N)=O)C | InChI=1S/C22H21N3O.ClH/c1-25(21(26)12-6-15-5-11-20(23)24-13-15)14-18-10-9-17-8-7-16-3-2-4-19(18)22(16)17;/h2-6,9-13H,7-8,14H2,1H3,(H2,23,24);1H/b12-6+;
